US06303816B1
2-(4-Isopropylphenyl)propylamine hydrochloride
In a 100 ml flask, fitted with a condenser, 2-(4-isopropylphenyl) propionitrile 1.90 g (11.0 mmol) was dissolved in tetrahydrofuran (70 ml) under a nitrogen atmosphere. Borane-methyl sulfide complex (10.0-10.2 M in tetrahydrofuran, 1.20 ml, 12.1 mmol) was added to the solution and the mixture heated to reflux for 3 hours. The solution was cooled to ambient temperature and a saturated solution of hydrochloric acid in methanol added slowly until a white precipitate formed. The solvent was removed in vacuo and the resulting white solid triturated (×4) with diethyl ether. Drying under vacuo gave 1.76 g (73%) of the title compound.

reactant | 2-(4-isopropylphenyl) propionitrile | 11.0 mmol, 1.90 g | C(C)(C)C1=CC=C(C=C1)C(C#N)C | C12H15N
reactant | Borane methyl sulfide | 12.1 mmol, 10.0-10.2 M, 1.20 ml | B.CSC
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-(4-Isopropylphenyl)propylamine hydrochloride | 1.76 g, 73% | Cl.C(C)(C)C1=CC=C(C=C1)C(CN)C | InChI=1S/C12H19N.ClH/c1-9(2)11-4-6-12(7-5-11)10(3)8-13;/h4-7,9-10H,8,13H2,1-3H3;1H
